### PR TITLE
Finalise_R sorries

### PR DESCRIPTION
**Pull request by VictorPhan**
Fixes the following lemmas:
`cteDeleteOne_invs`
`unbind_notification_corres`
`unbind_maybe_notification_corres`

Modifies `finaliseCap_replaceable` precondition for `cteDeleteOne_invs`

Adds the following helper lemmas:
`no_fail_simple_ko_at`
`no_fail_get_notification`
`get_simple_ko_exs_valid`
`get_notification_exs_valid`

### CODE REVIEW

File: proof/refine/ARM/Finalise_R.thy [hunk 1]
```diff
@@ -3650,54 +3651,55 @@ lemma unbind_notification_corres:
...
-  done *)
+      apply (simp add: bind_assoc)
+      apply (rule corres_split[OF sbn_corres])
+        apply (simp add: update_sk_obj_ref_def)
+        apply (rule_tac P="ko_at (Notification sc) ntfnptr" in corres_symb_exec_l)
+           apply (rename_tac ntfnA ntfnH tcbPtr ntfnA')
+           apply (rule_tac F="ntfnA = ntfnA'" in corres_gen_asm)
+           apply (rule set_ntfn_corres)
+           apply (clarsimp simp: ntfn_relation_def split: Structures_A.ntfn.splits)
+          apply (wpsimp wp: simp: split: option.splits)
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Finalise_R.thy:3695]: Nitpick: the `wp: ` and `simp: ` aren' needed are they?

**Review by michaelmcinerney — APPROVED** [review]
I like it!

**Review by mktnk3 — APPROVED** [review]
Nicely done, particularly generalisation around simple_ko.

File: proof/refine/ARM/Finalise_R.thy (hunk 1 above)
Comment (VictorPhan) [reply proof/refine/ARM/Finalise_R.thy:3695]: In fact I don't need this line at all since there's a `wpsimp ... +` in the following line.

File: proof/refine/ARM/Finalise_R.thy [hunk 2]
```diff
@@ -3650,54 +3651,55 @@ lemma unbind_notification_corres:
...
-                   split: option.splits)
-  apply (clarsimp dest!: obj_at_valid_objs' bound_tcb_at_state_refs_ofD' invs_valid_objs'
-                   simp: projectKOs valid_obj'_def valid_tcb'_def valid_bound_ntfn'_def
-                         tcb_ntfn_is_bound'_def valid_ntfn'_def
-                  split: option.splits)
-  done *)
+      apply (simp add: bind_assoc)
+      apply (rule corres_split[OF sbn_corres])
+        apply (simp add: update_sk_obj_ref_def)
+        apply (rule_tac P="ko_at (Notification sc) ntfnptr" in corres_symb_exec_l)
```
Comment (VictorPhan) [inline proof/refine/ARM/Finalise_R.thy:3690]: Will add renames for `sc` and other meta variables in proof state

File: proof/refine/ARM/KHeap_R.thy [hunk 3]
```diff
@@ -3406,6 +3406,13 @@ lemma get_sched_context_exs_valid:
                      gets_def get_def return_def exs_valid_def
               split: Structures_A.kernel_object.splits)
 
+lemma no_fail_simple_ko_at:
+  "\<lbrakk>inj C; is_simple_type (C ko)\<rbrakk> \<Longrightarrow> no_fail (ko_at (C ko) p) (get_simple_ko C p)"
+  apply (wpsimp simp: get_simple_ko_def obj_at_def wp: get_object_wp)
+  by (auto simp: partial_inv_def inj_def split: if_splits)
+
+lemmas no_fail_get_notification[wp] = no_fail_simple_ko_at[where C=Notification, simplified]
```
[the remark this answers is not in the document]
Comment (VictorPhan) [reply proof/refine/ARM/KHeap_R.thy:3414]: Yep!

File: proof/refine/ARM/TcbAcc_R.thy [hunk 4]
```diff
@@ -2292,16 +2292,19 @@ lemma isSchedulable_corres:
   apply (fastforce simp: valid_tcbs'_def valid_tcb'_def obj_at'_def projectKOs)
   done
 
+lemma get_simple_ko_exs_valid:
+  "\<lbrakk>inj C; ko_at (C ko) p s; is_simple_type (C ko)\<rbrakk> \<Longrightarrow> \<lbrace>(=) s\<rbrace> get_simple_ko C p \<exists>\<lbrace>\<lambda>_. (=) s\<rbrace>"
+  by (auto simp: get_simple_ko_def get_object_def gets_def return_def get_def
+                     partial_inv_def exs_valid_def bind_def obj_at_def is_reply fail_def inj_def split: prod.splits)
+
+lemmas get_notification_exs_valid[wp] = get_simple_ko_exs_valid[where C=Notification, simplified]
```
[the remark this answers is not in the document]
Comment (VictorPhan) [reply proof/refine/ARM/TcbAcc_R.thy:2300]: Yes

File: proof/refine/ARM/Finalise_R.thy [hunk 5]
```diff
@@ -2742,7 +2742,9 @@ lemma (in delete_one_conc_pre) finaliseCap_replaceable:
             \<and> (\<forall>p \<in> threadCapRefs cap. st_tcb_at' ((=) Inactive) p s
                      \<and> obj_at' (Not \<circ> tcbQueued) p s
                      \<and> bound_tcb_at' ((=) None) p s
-                     \<and> (\<forall>pr. p \<notin> set (ksReadyQueues s pr))))\<rbrace>"
+                     \<and> (\<forall>pr. p \<notin> set (ksReadyQueues s pr))
+                     \<and> bound_sc_tcb_at' ((=) None or (=) (Some idle_sc_ptr)) p s
+                     \<and> bound_yt_tcb_at' ((=) None) p s))\<rbrace>"
```
Comment (corlewis) [inline proof/refine/ARM/Finalise_R.thy:2747]: I think I've seen this condition in a few different lemmas now. It's not relevant to this PR, but we might want to wrap it up in a definition or abbreviation to make it easier to maintain. I haven't fully thought through what it might look like, but it's pretty closely linked to `live'`.

File: proof/refine/ARM/Finalise_R.thy [hunk 6]
```diff
@@ -3651,54 +3652,56 @@ lemma unbind_notification_corres:
...
                    simp: projectKOs valid_obj'_def valid_tcb'_def valid_bound_ntfn'_def
-                         tcb_ntfn_is_bound'_def
                   split: option.splits)
-  done *)
+  done
 
 lemma unbind_maybe_notification_corres:
   "corres dc
-      (invs and ntfn_at ntfnptr) (invs' and ntfn_at' ntfnptr)
+      (valid_objs and ntfn_at ntfnptr) (valid_objs' and ntfn_at' ntfnptr)
```
Comment (corlewis) [inline proof/refine/ARM/Finalise_R.thy:3678]: Nice job reducing these preconditions!

**Review by corlewis — APPROVED** [review]
